US05753682
a. 4-(2-Phenylimidazol-1-yl)benzonitrile
A mixture of 4-fluorobenzonitrile (3.63 g, 30 mmol), 2-phenylimidazole (3.72 g, 30 mmol) and anhydrous K2CO3 (4.15 g, 30 mmol) in dry DMSO (30 ml) was heated at 100° C. for 20 hours under a nitrogen atmosphere. After cooling to room temperature, the reaction mixture was poured into an ice-cold saturated aqueous NH4Cl (100 ml) solution and the whole extracted with Et2O (150 ml×2). The combined extracts was washed with water (100 ml), brine (80 ml), dried over MgSO4 and solvent removed under reduced pressure. The resultant residue was purified by column chromatography (SiO2 ; dichloromethane:ethyl acetate:ethanol=20:1:1) to afford title compound (3.61 g, 49%).

reactant | 4-fluorobenzonitrile | 30 mmol, 3.63 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 2-phenylimidazole | 30 mmol, 3.72 g | C1(=CC=CC=C1)C=1NC=CN1 | C9H8N2
reactant | K2CO3 | 30 mmol, 4.15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | 4-(2-Phenylimidazol-1-yl)benzonitrile | 3.61 g, 49% | C1(=CC=CC=C1)C=1N(C=CN1)C1=CC=C(C#N)C=C1 | C16H11N3
